US04205180
To a solution of 920 mg of α-t-butyloxycarbonylamino-α-[2-(chloroacetamido)thiazol-4-yl]acetic acid ethyl ester in 20 ml of ethanol is added 1.4 ml of aqueous solution containing 681 mg of potassium hydroxide and the mixture is stirred for 15 minutes at room temperature. The reaction solution is concentrated to dryness under reduced pressure and the residue is dissolved in water. The aqueous solution is adjusted to pH 2.0 with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer is washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled to obtain 690 mg of α-t-butyloxycarbonylamino-α-[2-(chloroacetamido)thiazol-4-yl]acetic acid as crystals (yield, 81%). Melting point: 169°-170° C. (dec.).

reactant | α-t-butyloxycarbonylamino-α-[2-(chloroacetamido)thiazol-4-yl]acetic acid ethyl ester | 920 mg | C(C)OC(C(C=1N=C(SC1)NC(CCl)=O)NC(=O)OC(C)(C)C)=O | C14H20ClN3O5S
reactant | potassium hydroxide | 681 mg | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | α-t-butyloxycarbonylamino-α-[2-(chloroacetamido)thiazol-4-yl]acetic acid | 690 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C=1N=C(SC1)NC(CCl)=O | C12H16ClN3O5S
